US07592357B2
Step 3. 2-Chloro-4-fluoro-5-formylbenzenesulfonamide
A solution of 2-chloro-4-fluoro-5-(hydroxymethyl)benzenesulfonamide (440 mg, 1.84 mmol) in acetone (18 mL) was added to a round bottom flask containing MnO2 (1.60 g, 18.4 mmol). The mixture was stirred for 50 hours until the starting material was gone, then filtered though a pad of celite. The filtrate was evaporated to afford the product (263 mg, 60%) as a white solid. MS (ES+) m/z 238 [M+H]+.

reactant | 2-chloro-4-fluoro-5-(hydroxymethyl)benzenesulfonamide | 1.84 mmol, 440 mg | ClC1=C(C=C(C(=C1)F)CO)S(=O)(=O)N | C7H7ClFNO3S
solvent | acetone | 18 mL | CC(=O)C | C3H6O
catalyst | MnO2 | 18.4 mmol, 1.60 g | O=[Mn]=O
product | 2-Chloro-4-fluoro-5-formylbenzenesulfonamide | 263 mg, 60% | ClC1=C(C=C(C(=C1)F)C=O)S(=O)(=O)N | C7H5ClFNO3S
